US07402680B2
1-Benzyl-3-(3,4-dichloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (228.2 mg) was prepared from 0.49 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 268 μL of benzylamine, and 0.55 g of 1,2-dichloro-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C20H18Cl2N2, 356.08; found, m/z 357.1 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.51-7.47 (m, 2H), 7.36-7.32 (m, 2H), 7.32-7.25 (m, 2H), 7.22 (s, 1H), 7.19-7.15 (m, 2H), 5.15 (s, 2H), 4.35 (s, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.85 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 268 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,2-dichloro-4-(2-nitro-vinyl)-benzene | 0.55 g | ClC1=C(C=C(C=C1)C=C[N+](=O)[O-])Cl | C8H5Cl2NO2
product | 1-Benzyl-3-(3,4-dichloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 228.2 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC(=C(C=C2)Cl)Cl | C20H18Cl2N2
